US05198208
(c) 2-Benzyloxymethyl-2-azido-1-phthalimido-ethane
2-Benzyloxymethyl-2-(trifluoromethylsulfonyloxy) -1-phthalimido-ethane (8.5 g, 19.1 mmol) and sodium azide (2.5 g, 38.2 mmol) were stirred in dimethylformamide (80 ml) at 60° C. for 6 hours under nitrogen. TLC in several systems was inconclusive because the Rf of the product was identical to the Rf of the starting material. A small sample was worked up and IR indicated full conversion to the azide. The reaction mixture was transferred to a 1 l extraction funnel and distributed between ethyl acetate (350 ml) and water (130 ml). The aqueous phase was extracted with ethyl acetate (80 ml); the combined organic phases were washed with water (2×120 ml), dried over magnesium sulphate, filtered and concentrated in vacuo to a pale brown oil. Crystallisation was initiated by adding ether (7 ml). Crystals were collected on a glass sinter, washed with cold ether and dried under vacuum for 28 hours. Yield: 4.5 g (70%). The mother liquors were concentrated, diluted with ether and seeded with crystals from the first crop--yielding another 1 g. Total yield: 5.5 g (85%). The structure was confirmed by NMR and IR.

reactant | 2-Benzyloxymethyl-2-(trifluoromethylsulfonyloxy) -1-phthalimido-ethane | 19.1 mmol, 8.5 g | C(C1=CC=CC=C1)OCC(CN1C(C=2C(C1=O)=CC=CC2)=O)OS(=O)(=O)C(F)(F)F | C19H16F3NO6S
reactant | sodium azide | 38.2 mmol, 2.5 g | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxymethyl-2-azido-1-phthalimido-ethane | C(C1=CC=CC=C1)OCC(CN1C(C=2C(C1=O)=CC=CC2)=O)N=[N+]=[N-] | C18H16N4O3
